US06245761B1
Preparation of 1-methyl-2-(4-chlorophenoxymethyl)-3-[2-(4-methylpiperidin-1-yl)-1,2-ethanedionyl]-1H-indole (Example 102)
Under a nitrogen atmosphere, 4-methylpiperidine (0.490 ml, 0.411 g, 4.14 mmol) was dissolved in 3.0 ml of dry tetrahydrofuran in a round bottom flask over an ice bath. To this reaction mixture was added 1-methyl-2-(4-chlorophenoxymethyl)-3-[2-chloro-1,2-ethanedionyl]-1H-indole (0.500 g, 1.39 mmol) and the resulting mixture was stirred at room temperature overnight. The progress of the reaction was monitored by thin layer chromatography.

reactant | 4-methylpiperidine | 4.14 mmol, 0.490 ml, 0.411 g | CC1CCNCC1 | C6H13N
reactant | 1-methyl-2-(4-chlorophenoxymethyl)-3-[2-chloro-1,2-ethanedionyl]-1H-indole | 1.39 mmol, 0.500 g | CN1C(=C(C2=CC=CC=C12)C(C(=O)Cl)=O)COC1=CC=C(C=C1)Cl | C18H13Cl2NO3
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
product | 1-methyl-2-(4-chlorophenoxymethyl)-3-[2-(4-methylpiperidin-1-yl)-1,2-ethanedionyl]-1H-indole | CN1C(=C(C2=CC=CC=C12)C(C(=O)N1CCC(CC1)C)=O)COC1=CC=C(C=C1)Cl | C24H25ClN2O3
